US07947834B2
27 ml of a 2.5N solution of n-butyllithium in hexane are added dropwise, in a 500 ml three-necked flask under nitrogen, to a solution of 9.86 ml of diisopropylamine in 40 ml of tetrahydrofuran cooled to −78° C. After stirring for ¼ of an hour, a solution of 10 g of tert-butyl 3-oxopyrrolidine-1-carbamate in 40 ml of tetrahydrofuran is added dropwise at −78° C. Finally, still at −78° C., 21.22 g of N-phenyltrifluoromethanesulfonimide are added. After stirring at ambient temperature for 14 hours, the tetrahydrofuran is evaporated and the product is purified on silica gel using a cyclohexane/ether 9/1 mixture as eluent. 10.2 g of tert-butyl 3-trifluoromethanesulfonyloxy-2,5-dihydropyrrole-1-carbamate are obtained as a 1/1 mixture with C,C,C-trifluoro-N-phenylmethanesulfonamide.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 9.86 ml | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl 3-oxopyrrolidine-1-carbamate | 10 g | O=C1CN(CC1)NC(=O)OC(C)(C)C | C9H16N2O3
reactant | N-phenyltrifluoromethanesulfonimide | 21.22 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-trifluoromethanesulfonyloxy-2,5-dihydropyrrole-1-carbamate | 10.2 g | FC(S(=O)(=O)OC=1CN(CC1)NC(=O)OC(C)(C)C)(F)F | C10H15F3N2O5S
